US04954518
In 10 ml of a mixture of anhydrous tetrahydrofuran-hexamethylphosphoric acid triamide (7:3) was dissolved 1.00 g of 2,3-dihydro-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one. To the resulting solution was added 10 ml of a tetrahydrofuran solution of 1,1,1,3, 3,3-hexamethylsilazane lithium salt consisting of 1.17 g of 1,1,1,3,3,3-hexamethylsilazane and 6.6 millimoles of n-butyllithium at -78° C., and the resulting mixture was stirred for 40 minutes, after which 500 mg of methyl methanethiolsulfate was added at the same temperature and the mixture was stirred for 15 minutes. Subsequently, the temperature of the reaction mixture was elevated to room temperature. The reaction mixture was introduced into 80 ml of 2N hydrochloric acid with ice-cooling and the resulting mixture was extracted with two 40-ml portions of ethyl acetate. The extracts were combined and washed with water and saturated aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure and the oily product obtained was purified by a column chromatography (eluant: toluene:ethyl acetate=50:1) to obtain 480 mg (yield: 39.6%) of 2,3-dihydro-7-methylsulfonylamino-3-methylthio-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 2,3-dihydro-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 1.00 g | CS(=O)(=O)NC1=CC2=C(C(CCO2)=O)C=C1OC1=CC=CC=C1 | C16H15NO5S
reactant | n-butyllithium | 6.6 millimoles | C(CCC)[Li]
reactant | methyl methanethiolsulfate | 500 mg | CSS(=O)(=O)C | C2H6O2S2
reactant | hydrochloric acid | 2N, 80 ml | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoric acid triamide | O1CCCC1.CN(P(N(C)C)(N(C)C)=O)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-7-methylsulfonylamino-3-methylthio-6-phenoxy-4H-1-benzopyran-4-one | 480 mg, yield: 39.6% | CS(=O)(=O)NC1=CC2=C(C(C(CO2)SC)=O)C=C1OC1=CC=CC=C1 | C17H17NO5S2
